US04207419
2,3-Dimethyl-4-Phenyl-2,3-Butanediol
A solution of 41 g. of 3-hydroxy-3-methyl-2-butanone in 300 ml. of dry tetrahydrofuran was treated at -10° under nitrogen with 500 ml. of 2M benzyl magnesium chloride and stirred at 25° C. for 20 hours. An aqueous ammonium chloride solution was added at 0° and the mixture was acidified at 0° with concentrated hydrochloric acid and extracted with ethyl acetate. The extract was evaporated and the residue chromatographed on silica gel. Elution with 20% ethyl acetate in hexane followed by recrystallization from the same solvent afforded 38 g. of the title product, m.p. 72°-74°, λmaxKBr 2.95, 3.35, 6.2, 6.63, 6.82, 7.23, 7.45, 7.65, 8.32, 8.70, 9.13, 10.58, 11.0, 11.40, 12.30, 12.97 and 14.06 μ.

reactant | 3-hydroxy-3-methyl-2-butanone | OC(C(C)=O)(C)C | C5H10O2
reactant | benzyl magnesium chloride | 2M | C(C1=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,3-Dimethyl-4-Phenyl-2,3-Butanediol | CC(C)(C(CC1=CC=CC=C1)(O)C)O | C12H18O2
